US20010027196A1
To a stirred suspension of 300 mg (1.47 mmol) 2-amino-4-(4,5-dihydro-furan-2-yl)-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile in 10 ml dichloromethane was added 1,32 ml (5.88 mmol) 2,6-di-tert-butylpyridine and the mixture was ultrasonicated for 10 minutes. 0.24 ml (1.47 mmol) triflic anhydride was then added dropwise at 0° C. and stirring continued at 0° C. for 1.5 hours. 3 g kieselgel was then added and the mixture was concentrated in vacuo. Chromatography (ethyl acetate) afforded 40 mg (8%) trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester as an off-white crystalline solid. ES-MS m/e (%): 337 (M+H+, 100).

reactant | 2-amino-4-(4,5-dihydro-furan-2-yl)-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 1.47 mmol, 300 mg | NC=1NC(C(=C(N1)C=1OCCC1)C#N)=O | C9H8N4O2
reactant | 2,6-di-tert-butylpyridine | 5.88 mmol, 1,32 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 1.47 mmol, 0.24 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 2-amino-5-cyano-6-(4,5-dihydro-furan-2-yl)-pyrimidin-4-yl ester | 40 mg, 8% | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OCCC1 | C10H7F3N4O4S
